US08084538B2
A rubber-reinforced styrene-based resin (C8-6) was produced by the following method. That is, 80 parts of ion-exchanged water, 0.5 part of potassium rosinate, 0.1 part of tert-dodecyl mercaptan, 30 parts (solid content) of a polybutadiene latex (average particle diameter: 2000 Å; gel content: 90%), 10 parts (solid content) of a styrene-butadiene copolymer latex (styrene content: 25%; average particle diameter: 6000 Å), 15 parts of styrene and 5 parts of acrylonitrile were charged into a glass flask equipped with a stirrer under a nitrogen flow, and heated while stirring. When an inside temperature of the flask reached 45° C., a solution prepared by dissolving 0.2 part of sodium pyrophosphate, 0.01 part of ferrous sulfate heptahydrate and 0.2 part of glucose in 20 parts of ion-exchanged water were added thereto. Thereafter, 0.07 part of cumene hydroperoxide was added to the flask to initiate polymerization of the contents in the flask. After conducting the polymerization for 1 hr, 50 parts of ion-exchanged water, 0.7 part of potassium rosinate, 30 parts of styrene, 10 parts of acrylonitrile, 0.05 part of tert-dodecyl mercaptan and 0.01 part of cumene hydroperoxide were continuously added to the flask over 3 hr, and the polymerization of the contents in the flask was further continued for 1 hr, and then 0.2 part of 2,2′-methylene-bis(4-ethyl-6-tert-butyl phenol) was added to the flask to complete the polymerization. The obtained reaction product in the form of a latex was coagulated with an aqueous sulfuric acid solution, washed with water and then washed and neutralized with a potassium hydroxide aqueous solution. Further, the resulting product was washed with water and then dried to obtain a rubber-reinforced styrene-acrylonitrile graft copolymer. It was confirmed that the thus obtained copolymer had a graft percentage of 68%, and the intrinsic viscosity [η] of an acetone-soluble component therein was 0.45 dL/g.

reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | potassium | [K] | K
reactant | tert-dodecyl mercaptan | CC(C)C(C)(C)C(C)(C)C(C)(C)S | C12H26S
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | sodium pyrophosphate | [O-]P([O-])(=O)OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | cumene hydroperoxide | [O-]O.C1(=CC=CC=C1)C(C)C
reactant | 2,2′-methylene-bis(4-ethyl-6-tert-butyl phenol) | C(C1=C(C(=CC(=C1)CC)C(C)(C)C)O)C1=C(C(=CC(=C1)CC)C(C)(C)C)O | C25H36O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | styrene-acrylonitrile | C(=CC1=CC=CC=C1)C=CC#N | C11H9N
